US08283354B2
2-(4-((R)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol
To a mixture of benzyl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (855 mg, 1.77 mmol) and EtOH (15 mL) in a round bottom flask was added Pd/C (86 mg, 10% wt Pd on carbon) and the flask was sealed with a septum. The atmosphere in the flask was evacuated, purged with N2, and equipped with a balloon charged with H2. The mixture was stirred under an H2 atmosphere at ambient pressure for 3 h. After filtration through a plug of Celite using MeOH as the eluting solvent, the reaction mixture was concentrated to 2-(4-((R)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol (625 mg) as a yellow solid. LC/MS: m/z 349.3 (M+H)+ at 1.82 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | benzyl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 1.77 mmol, 855 mg | C(C1=CC=CC=C1)OC(NC[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C29H30N4O3
catalyst | Pd/C | 86 mg | [Pd] | Pd
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-(4-((R)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol | NC[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C21H24N4O
